US08138178B2
To a solution of (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (100 mg, 0.21 mmol) in 1,4-dioxane (2 mL) was added 5-bromo-1-isopropylpyridin-2(1H)-one (54.2 mg, 0.25 mmol). Then catalysts of Pd(PPh3)2Cl2 (14 mg, 0.02 mmol), Cs2CO3 (1 mL, 2 M) were added. The vessel was sealed with a septum and placed into the microwave cavity. Microwave irradiation of 100 W was used, the temperature being ramped from room temperature to 120° C. Once this temperature was reached, the reaction mixture was held at this temperature for 30 min. After the mixture cooled to rt, the mixture was filtered. The filtrate was extracted with EtOAc (20 mL×4), the organic layer was washed with brine, dried over Na2SO4 and concentrated to give the crude product which was purified by preparative HPLC to give (S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-isopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (22 mg, 21%). 1H NMR (CDCl3): 1.13 (s, 3H), 1.19 (s, 3H), 1.40 (6H), 1.53 (d, 3H), 2.18-2.30 (m, 4H), 2.40 (m, 1H), 2.88 (m, 1H), 5.31 (m, 1H), 5.70 (m, 1H), 6.73 (d, 1H), 7.02 (d, 2H), 7.15 (d, 2H), 7.27-7.38 (m, 5H), 7.43 (d, 1H), 7.50 (d, 1H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.21 mmol, 100 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 5-bromo-1-isopropylpyridin-2(1H)-one | 0.25 mmol, 54.2 mg | BrC=1C=CC(N(C1)C(C)C)=O | C8H10BrNO
reactant | Cs2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-isopropyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 22 mg, 21% | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C(C)C)C1=CC=CC=C1)(C)C | C30H36N2O4
